US05169860
Preparation of N-[[(4-chlorophenyl)amino]carbonyl]-5-benzofuransulfonamide hemihydrate
To a solution of 5-bromobenzofuran (4.7 g, 23.8 mmol),dissolved in 100 mL of anhydrous tetrahydrofuran at -78° C. under a nitrogen atmosphere, was added 15.0 mL of a 1.6 M hexanes solution of n-butyllithium (23.8 mmol). The reaction was warmed to 0° C. and stirred for 15 minutes. Sulfur dioxide gas was bubbled through this mixture for 20 minutes at 0° C. and the reaction concentrated under vacuum. The residue was dissolved in 250 mL of water. To this solution were added 15.6 g (190 mmol) of sodium acetate and 8.3 g (73.7 mmol) of hydroxylamine-0-sulphonic acid. This reaction was stirred at room temperature for 1.5 hours. The solution was extracted with diethyl ether (2×150 mL). The combined organic layer was dried with anhydrous magnesium sulfate, filtered, and concentrated under vacuum. Flash chromatography of the residue with 18% ethyl acetate/hexanes on silica gel provided 2.3 g (10.0 mmol) of 5-benzofuransulfonamide. The 5-benzofuransulfonamide was reacted with 4-chlorophenylisocyanate (10.0 mmol), as described in Method A above, to obtain 1.4 g of the title product as a solid. 1H NMR (CD3SOCD3): δ0.62 (bs, 1 H), 9.02 (s, 1 H), 8.38 (d, J =2 Hz, 1 H), 8.20 (d, J =2Hz, 1 H), 7.96 (dd, J =2, 9 Hz, 1 H), 7.86 (d, J =9 Hz, 1 H), 7.38 (d, J =9 Hz, 2 H), 7.30 (d, J =9 Hz, 2 H), 7.20 (d, J =2 Hz, 1 H).

reactant | 5-benzofuransulfonamide | O1C=CC2=C1C=CC(=C2)S(=O)(=O)N | C8H7NO3S
reactant | 4-chlorophenylisocyanate | 10.0 mmol | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
product | N-[[(4-chlorophenyl)amino]carbonyl]-5-benzofuransulfonamide hemihydrate | 1.4 g | O.ClC1=CC=C(C=C1)NC(=O)NS(=O)(=O)C=1C=CC2=C(C=CO2)C1.ClC1=CC=C(C=C1)NC(=O)NS(=O)(=O)C=1C=CC2=C(C=CO2)C1 | InChI=1S/2C15H11ClN2O4S.H2O/c2*16-11-1-3-12(4-2-11)17-15(19)18-23(20,21)13-5-6-14-10(9-13)7-8-22-14;/h2*1-9H,(H2,17,18,19);1H2
